US04725595
Ethyl 2-(2,4-dichloro-5-fluoro-3-nitro-benzoyl)-3-ethoxyacrylate
244.8 g of ethyl (2,4-dichloro-5-fluoro-3-nitrobenzoyl)-acetate are heated at 150°-160° C. with 166 g of triethyl orthoformate and 185 g of acetic anhydride for 3 hours. The mixture is then concentrated in vacuo and 270 g of ethyl benzoyl-ethoxy-acrylate are obtained as an oily residue.

reactant | ethyl (2,4-dichloro-5-fluoro-3-nitrobenzoyl)-acetate | 244.8 g | ClC1=C(C(=O)CC(=O)OCC)C=C(C(=C1[N+](=O)[O-])Cl)F | C11H8Cl2FNO5
reactant | triethyl orthoformate | 166 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 185 g | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 2-(2,4-dichloro-5-fluoro-3-nitro-benzoyl)-3-ethoxyacrylate | ClC1=C(C(=O)C(C(=O)OCC)=COCC)C=C(C(=C1[N+](=O)[O-])Cl)F | C14H12Cl2FNO6
